US08440689B2
A. 2,6-Dichloro-5-fluoronicotinamide
A 12-L 3-neck round bottom flask equipped with overhead stirrer, refluxing condenser, and N2 inlet/outlet was charged with 2,6-dichloro-5-fluoronicotinonitrile (2.0 kg, 1.0 eq). Concentrated sulfuric acid (4.93 L) was added and the mixture was stirred at RT until most of the brown solids had dissolved. Next, the reaction mixture was stirred at 65° C. for 1 h. The dark-brown solution was cooled to a temperature <10° C. using an ice bath. The reaction mixture was added to a 50-L round bottom flask, which contained de-ionized water (24.7 L) that had been cooled to a temperature <10° C., using a peristaltic pump. The reaction mixture was added to the water quench over a 2.3 h period, which kept the internal temperature of the mixture below 21° C. The resulting slurry was filtered through a Buchner funnel fitted with a Sharkskin filter paper. The 50-L RBF was rinsed with water (3×4 L) and the rinses were used to wash the filter cake. The filter cake was conditioned for 50 min, transferred to a drying tray, and was dried under high vacuum at 40-50° C. for 24 h and then at 20-25° C. for 18 h to give the title compound as a beige solid (896.4 g, 82%). 1H NMR (500 MHz, DMSO-d6) δ ppm 7.94 (s, 1H), 8.10 (s, 1H), 8.24 (d, 1H). [M+H] calc'd for C6H3Cl2FN2O, 209. found, 209.

reactant | 2,6-dichloro-5-fluoronicotinonitrile | 2.0 kg, 1.0 eq | ClC1=C(C#N)C=C(C(=N1)Cl)F | C6HCl2FN2
reactant | sulfuric acid | 4.93 L | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
solvent | water | 24.7 L | O | H2O
product | 2,6-Dichloro-5-fluoronicotinamide | 896.4 g, 82% | ClC1=C(C(=O)N)C=C(C(=N1)Cl)F | C6H3Cl2FN2O
